US06605629B1
Ethyl 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionate (9.00 g) was dissolved in tetrahydrofuran (100 ml), the solution was cooled to −78° C., and a 1 N solution of diisobutylaluminum hydride in toluene (65 ml) was added dropwise with stirring. After completion of the dropping, the cooling bath was removed to raise the inner temperature to −20° C. Sodium sulfate decahydrate (10.0 g) was added to the reaction mixture, and the temperature was raised to room temperature. The reaction mixture was filtered, and the residue on the filter paper was washed with ethyl acetate. The filtrate was concentrated to give crystals of 2-chloro-4-(4-chlorophenyl)-5-oxazolepropanol (7.00 g, 86%).

reactant | Ethyl 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionate | 9.00 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)OCC | C14H13Cl2NO3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | toluene | 65 ml | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-4-(4-chlorophenyl)-5-oxazolepropanol | 7.00 g, 86% | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCCO | C12H11Cl2NO2
